US07994185B2
N-{2-fluoro-3-[5-(2-methyl-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]phenyl}-3-furansulfonamide
Following a procedure analogous to the procedure described in Example 25 using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-3-furansulfonamide (100 mg, 0.192 mmol) and dimethyl zinc in toluene (0.192 mL, 0.383 mmol), the title compound was obtained as a solid (50 mg, 49% yield). MS (ESI): 502 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-3-furansulfonamide | 0.192 mmol, 100 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1=COC=C1)F | C21H17ClFN5O4S2
reactant | dimethyl zinc | C[Zn]C
reactant | toluene | 0.383 mmol, 0.192 mL | C1(=CC=CC=C1)C | C7H8
product | N-{2-fluoro-3-[5-(2-methyl-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]phenyl}-3-furansulfonamide | FC1=C(C=CC=C1C=1N=C(SC1C1=NC(=NC=C1)C)N1CCOCC1)NS(=O)(=O)C1=COC=C1 | C22H20FN5O4S2
